US09029374B2
Hydrogen chloride in dioxane 4M (15 mL, 60.1 mmol) was added to 8-(1-((R)-1,1-dimethylethylsulfinamido)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (2.7 g, 6.0 mmol) dissolved in dioxane (40 mL). The resulting white suspension was stirred at RT for 1 hour, collected by filtration, washed with diethyl ether and dried. It was dissolved into a 5% methanolic ammonia (7 N) sol. in DCM (200 mL) and stirred for 5 minutes. The precipitate (NH4Cl) was removed by filtration and the filtrate was concentrated to dryness to afford 8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (single enantiomer, 1.85 g, 89%) as an off-white solid. Mass Spectrum: M+H+ 346. [α]D20°: +35° in acetonitrile.

reactant | Hydrogen chloride | Cl | ClH
reactant | 8-(1-((R)-1,1-dimethylethylsulfinamido)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 6.0 mmol, 2.7 g | CC(C)([S@@](=O)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C)C | C22H31N3O5S
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 60.1 mmol, 4M, 15 mL | O1CCOCC1 | C4H8O2
product | 8-(1-aminoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 1.85 g, 89% | NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C18H23N3O4
